US05047554
Using the procedure of Example 32, 2.86 g (10.0 mmoles) of commercially available 4,5-dibromo-2-thiophenecarboxylic acid was added to 10 ml of thionyl chloride to give a heterogeneous mixture. Heating the reaction mixture helped the solution become homogenous. Concentration of the reaction solution gave 3.15 g of crude 4,5-dibromo-2-thiophenecarbonyl chloride as a brown oil. The crude acid chloride, dissolved in 10 ml of N,N-dimethylformamide was slowly added to 1.76 g (8.33 mmoles) of 5-chloro-2-oxindole-1-carboxamide and 3.05 g (25.0 mmoles) of 4-(N,N-dimethylamino)pyridine in 40 ml of N,N-dimethylformamide under the conditions of Example 32. Workup gave 2.82 g of orange solid which was recrystallized from 2-butanone to give 1.61 g (3.37 mmoles, 40% yield) of pure title compound as a yellow solid, m.p. 229°-31° C.

reactant | 4,5-dibromo-2-thiophenecarboxylic acid | BrC=1C=C(SC1Br)C(=O)O | C5H2Br2O2S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 4,5-dibromo-2-thiophenecarbonyl chloride | 3.15 g | BrC=1C=C(SC1Br)C(=O)Cl | C5HBr2ClOS
